US07915281B2
The methods described in Part H of Example 10 were used to treat 4-chloro-2-(ethoxymethyl)-1-[2-(3-methyl-1-oxa-2,4-diazaspiro[4,4]non-2-en-4-yl)ethyl]-1H-imidazo[4,5-c]quinoline (770 mg, 1.80 mmol) with a solution of 7 M ammonia in methanol (20 mL) and isolate and purify the final product to provide 700 mg of 2-(ethoxymethyl)-1-[2-(3-methyl-1-oxa-2,4-diazaspiro[4,4]non-2-en-4-yl)ethyl]-1H-imidazo[4,5-c]quinolin-4-amine as white needles, mp 211-213° C.

reactant | 4-chloro-2-(ethoxymethyl)-1-[2-(3-methyl-1-oxa-2,4-diazaspiro[4,4]non-2-en-4-yl)ethyl]-1H-imidazo[4,5-c]quinoline | 1.80 mmol, 770 mg | ClC1=NC=2C=CC=CC2C2=C1N=C(N2CCN2C(=NOC21CCCC1)C)COCC | C22H26ClN5O2
reactant | ammonia | 7 M | N | H3N
solvent | methanol | 20 mL | CO | CH4O
product | 2-(ethoxymethyl)-1-[2-(3-methyl-1-oxa-2,4-diazaspiro[4,4]non-2-en-4-yl)ethyl]-1H-imidazo[4,5-c]quinolin-4-amine | 700 mg | C(C)OCC=1N(C2=C(C(=NC=3C=CC=CC23)N)N1)CCN1C(=NOC12CCCC2)C | C22H28N6O2
